US03957492
4. Synthesis of N-(3-Morpholinopropyl)acrylamide
In a 1 liter capacity round bottom flask equipped with a stirrer were put 90.5 g (1.0 mole) of acrylic acid chloride and 300 cc of acetonitrile and, as a polymerization inhibitor, 0.5 g of hydroquinone, and then, after the contents were cooled to 5°-10°C, 143 g (1.0 mole) of 3-morpholinopropylamine was added dropwise thereto over the course of 3.5 hours while stirring. Afterwards, the reaction mixture was stirred additionally for 2 hours at 40°-50°C. Next, a solution of 40 g of sodium hydroxide in 100 cc of water was added thereto and then the mixture was stirred for 30 minutes. After removal of the sodium chloride which separated, 152 g (77.0%) of a fraction of 144°-146°C/0.1 mmHg were obtained.

reactant | acrylic acid chloride | 1.0 mole, 90.5 g | C(C=C)(=O)Cl | C3H3ClO
reactant | hydroquinone | 0.5 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | 3-morpholinopropylamine | 1.0 mole, 143 g | O1CCN(CC1)CCCN | C7H16N2O
reactant | sodium hydroxide | 40 g | [OH-].[Na+]
solvent | water | 100 cc | O | H2O
solvent | acetonitrile | 300 cc | C(C)#N | C2H3N
product | N-(3-Morpholinopropyl)acrylamide | O1CCN(CC1)CCCNC(C=C)=O | C10H18N2O2
